US09169254B2
N,N-Diisopropylethylamine (1.67 ml, 9.84 mmol) was added to a solution of 4-amino-4-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester (1.0 g, 4.1 mmol) in THF (10 ml) at 0° C., and thiophosgene (0.376 ml, 4.9 mmol) was further added dropwise slowly. The reaction solution was warmed to room temperature and stirred overnight. A 10% aqueous citric acid solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layers were combined and dried over magnesium sulfate, and the solvent was then distilled off. The residue was purified by silica gel column chromatography to give 4-oxo-2-thioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester (944 mg, 81%).

reactant | N,N-Diisopropylethylamine | 9.84 mmol, 1.67 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-amino-4-carbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 4.1 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(N)=O)N | C11H21N3O3
reactant | thiophosgene | 4.9 mmol, 0.376 ml | C(=S)(Cl)Cl | CCl2S
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-oxo-2-thioxo-1,3,8-triaza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 944 mg, 81% | C(C)(C)(C)OC(=O)N1CCC2(C(NC(N2)=S)=O)CC1 | C12H19N3O3S
